US09428456B2
1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid cyclopentylamide
1-Cyclopentylamine (10.7 mg, 0.124 mmol) is added to a solution of [3-(4-chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid (35.4 mg, 0.095 mmol) in DMF (0.5 mL). The resulting solution is treated with a solution of HOAT (15.5 mg, 0.114 mmol) in DMF (0.5 mL) followed by si-DCC (200 mg, 0.95 mmol/g, 0.19 mmol), and DIPEA (0.033 mL, 0.19 mmol). The mixture is stirred at 50° C. overnight. PI-DETA (7.99 mmol/g, 0.3 mmol, 37 mg) is added to the solution in order to scavenge the acid, PI-NCO (2.24 mmol/g, 0.3 mmol, 130 mg) is added to scavenge the amine in excess and the mixture is stirred for 1 h. The resin is filtered and washed with a mixture of MeOH/DCM 1:1, (4×1 mL). The resulting solution is evaporated under HV. The title compound is obtained by prep. HPLC F as a colourless powder: LC-MS A: tR=1.21 min; [M+H]+=440.1.

reactant | 1-Cyclopentylamine | 0.124 mmol, 10.7 mg | C1(CCCC1)N | C5H11N
reactant | [3-(4-chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid | 0.095 mmol, 35.4 mg | ClC1=CC=C(C(=O)NC=2C=C(CN3CCC(CC3)C(=O)O)C=CC2)C=C1 | C20H21ClN2O3
reactant | HOAT | 0.114 mmol, 15.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DCC | 0.19 mmol, 200 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DIPEA | 0.19 mmol, 0.033 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DETA | 0.3 mmol, 37 mg | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[3-(4-Chloro-benzoylamino)-benzyl]-piperidine-4-carboxylic acid cyclopentylamide | C1(CCCC1)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)NC(C1=CC=C(C=C1)Cl)=O | C25H30ClN3O2
